US05587504
Synthesis of 2-cyclopropanecarboxamido-5-bromo-4-methyl-3-nitropyridine
A mixture comprising 10 g (43.1 mmol) of 2-amino-5-bromo-4-methyl-3-nitropyridine, 6.3 g of 4-dimethylaminopyridine and xylene (50 ml) was heated at 110° C. in a nitrogen atmosphere. 5 g (47.4 mmol) of cyclopropanecarbonyl chloride was dropwise added thereto, followed by further stirring at 110° C. for 2 hours. The reaction mixture was brought to room temperature, followed by the addition of dichloromethane (200 ml) and water (50 ml). The organic phase was separated and the aqueous phase was further extracted with dichloromethane (50 ml). The organic phases were combined and washed with water (50 ml). The resulting organic phase was dried over anhydrous magnesium sulfate and concentrated to give a crude crystal. It was recrystallized from chloroform/ethyl acetate to give 11.4 g of the title compound (yield 88%).

reactant | 2-amino-5-bromo-4-methyl-3-nitropyridine | 43.1 mmol, 10 g | NC1=NC=C(C(=C1[N+](=O)[O-])C)Br | C6H6BrN3O2
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | cyclopropanecarbonyl chloride | 47.4 mmol, 5 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 50 ml | O | H2O
product | 2-cyclopropanecarboxamido-5-bromo-4-methyl-3-nitropyridine | 11.4 g, yield 88% | C1(CC1)C(=O)NC1=NC=C(C(=C1[N+](=O)[O-])C)Br | C10H10BrN3O3
